US08877779B2
2-{3-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide hydrochloride
In the same manner as in Example 2 and using 1-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one, 2-{3-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide was synthesized, which was then converted to hydrochloride with 4N hydrochloric acid-ethyl acetate solution to give the title compound as a pale-yellow solid.

reactant | 1-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | FC1(CCN(CC1)C1CCC2=CC=CC=C12)N1C(NC2=C1C=CC=C2)=O | C21H22FN3O
reactant | 2-{3-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide | FC1(CCN(CC1)C1CCC2=CC=CC=C12)N1C(N(C2=C1C=CC=C2)CC(=O)NC)=O | C24H27FN4O2
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
product | 2-{3-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide hydrochloride | Cl.FC1(CCN(CC1)C1CCC2=CC=CC=C12)N1C(N(C2=C1C=CC=C2)CC(=O)NC)=O | InChI=1S/C24H27FN4O2.ClH/c1-26-22(30)16-28-20-8-4-5-9-21(20)29(23(28)31)24(25)12-14-27(15-13-24)19-11-10-17-6-2-3-7-18(17)19;/h2-9,19H,10-16H2,1H3,(H,26,30);1H
